US08314091B2
A: 3-((4-(4-Amino-3,5-difluorobenzoyl)piperazin-1-yl)methyl)-N-tert-butylbenzamide
To a stirred solution of 4-ammo-3,5-difluorobenzoic acid (1 g, 5.78 mmoles), N-tert-butyl-3-(piperazin-1-ylmethyl)benzamide (1.59 g, 5.78 mmoles) and triethylamine (4 mL) in dichloromethane (30 mL) was added 1-propanephosphonic acid cyclic anhydride (8 mL, 50% solution in ethyl acetate). After 2 hours stirring, the reaction mixture was diluted with ethyl acetate and washed with sodium carbonate (aqueous) (3×), dried (magnesium sulfate) and concentrated under reduced pressure to give the title compound (2.24 g) as an off-white foam.

reactant | 4-ammo-3,5-difluorobenzoic acid | 5.78 mmoles, 1 g | NC1=C(C=C(C(=O)O)C=C1F)F | C7H5F2NO2
reactant | N-tert-butyl-3-(piperazin-1-ylmethyl)benzamide | 5.78 mmoles, 1.59 g | C(C)(C)(C)NC(C1=CC(=CC=C1)CN1CCNCC1)=O | C16H25N3O
reactant | triethylamine | 4 mL | C(C)N(CC)CC | C6H15N
reactant | 1-propanephosphonic acid cyclic anhydride | 8 mL | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-((4-(4-Amino-3,5-difluorobenzoyl)piperazin-1-yl)methyl)-N-tert-butylbenzamide | 2.24 g | NC1=C(C=C(C(=O)N2CCN(CC2)CC=2C=C(C(=O)NC(C)(C)C)C=CC2)C=C1F)F | C23H28F2N4O2
